US08877774B2
Preparation of (R)-5-(2-Amino-1-(tert-butyldimethylsilyloxy)ethyl)-8-hydroxyquinolin-2(1H)-one
To an ice-cooled suspension of (R)-5-(2-azido-1-(tert-butyldimethylsilyloxy)-ethyl)-8-(benzyloxy)quinolin-2(1H)-one (5.77 g, 12.8 mmol) and palladium on activated charcoal (5.8 g, 10% w/w wet) in ethanol (50 mL), 1,4-cyclohexadiene (12.0 mL, 126 mmol) was added dropwise. After stirring at this temperature for 30 minutes, the coolant was removed and replaced with a water bath at 30° C. The reaction was stirred at this temperature for 1 hour. The suspension was filtered and the filter cake washed with further ethanol. The filtrate was evaporated under reduced pressure to dryness. The resulting solid was suspended in acetonitrile and stirred for 1 hour. The suspension was filtered and the resulting solid air-dried under vacuum to afford the title compound (2.90 g, 87%).

reactant | (R)-5-(2-azido-1-(tert-butyldimethylsilyloxy)-ethyl)-8-(benzyloxy)quinolin-2(1H)-one | 12.8 mmol, 5.77 g | N(=[N+]=[N-])C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C24H30N4O3Si
reactant | 1,4-cyclohexadiene | 126 mmol, 12.0 mL | C1=CCC=CC1 | C6H8
catalyst | palladium on activated charcoal | 5.8 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (R)-5-(2-Amino-1-(tert-butyldimethylsilyloxy)ethyl)-8-hydroxyquinolin-2(1H)-one | 2.90 g, 87% | NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C17H26N2O3Si
